US05041455
B. 3-(4-chloro-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine (230 mg, 1.2 mmol) in acetone. The reaction mixture was stirred at room temperature for 18 h and evaporated to give the title compound.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-chloro-1,2,5-oxadiazol-3-yl)pyridine | 1.2 mmol, 230 mg | ClC=1C(=NON1)C=1C=NC=CC1 | C7H4ClN3O
solvent | acetone | CC(=O)C | C3H6O
product | 3-(4-chloro-1,2,5-oxadiazol-3-yl)-1-methylpyridinium iodide | [I-].ClC=1C(=NON1)C=1C=[N+](C=CC1)C | InChI=1S/C8H7ClN3O.HI/c1-12-4-2-3-6(5-12)7-8(9)11-13-10-7;/h2-5H,1H3;1H/q+1;/p-1
